### PR TITLE
[Merged by Bors] - feat: add lemmas about `List.scanr`

### PR DESCRIPTION
**Pull request by vlad902**
I add basic lemmas to reason about List.scanr, and slightly clean-up the file and add some basic lemmas to keep the API unified with the one for List.scanl.

Original PR: https://github.com/leanprover-community/mathlib4/pull/25188

### CODE REVIEW

File: Mathlib/Data/List/Scan.lean [hunk 1]
```diff
@@ -7,39 +7,53 @@ import Mathlib.Order.Basic
...
-    rw [scanl, length_cons, length_cons, ← succ_eq_add_one, congr_arg succ]
-    exact length_scanl _ _
+/-! ### List.scanl -/
+
+@[simp]
+theorem length_scanl (b : β) (l : List α) : length (scanl f b l) = l.length + 1 := by
+  induction l generalizing b <;> simp_all
 
 @[simp]
 theorem scanl_nil (b : β) : scanl f b nil = [b] :=
```
Comment (vihdzp) [inline Mathlib/Data/List/Scan.lean]: Seems like a no-brainer:
```suggestion
theorem scanl_nil (b : β) : scanl f b [] = [b] :=
```

File: Mathlib/Data/List/Scan.lean [hunk 2]
```diff
@@ -7,39 +7,53 @@ import Mathlib.Order.Basic
...
   rfl
 
+@[simp]
+theorem scanl_ne_nil : scanl f b l ≠ [] := by
```
Comment (vihdzp) [inline Mathlib/Data/List/Scan.lean:34]: If you move this below `scanl_cons`, doesn't the proof simply become `cases l <;> simp`?

File: Mathlib/Data/List/Scan.lean [hunk 3]
```diff
@@ -7,39 +7,53 @@ import Mathlib.Order.Basic
...
+  unfold scanl
+  split <;> simp
+
+@[simp]
+theorem scanl_iff_nil : scanl f b l = [b] ↔ l = [] := by
```
Comment (vihdzp) [inline Mathlib/Data/List/Scan.lean]: Untested, but this seems like something `aesop` might be able to solve directly.

File: Mathlib/Data/List/Scan.lean [hunk 4]
```diff
@@ -74,17 +88,69 @@ theorem getElem_succ_scanl {i : ℕ} (h : i + 1 < (scanl f b l).length) :
...
+
+theorem tail_scanr (h : 0 < l.length) : (scanr f b l).tail = scanr f b l.tail := by
+  induction l <;> simp_all
+
+theorem drop_scanr {i : ℕ} (h : i ≤ l.length) : (scanr f b l).drop i = scanr f b (l.drop i) := by
+  induction i with
+  | zero => simp
+  | succ i ih =>
+      rw [← drop_drop]
+      simp [ih (by omega), tail_scanr (l := l.drop i) (by rw [length_drop]; omega)]
```
Comment (vihdzp) [inline Mathlib/Data/List/Scan.lean]: I think this is not supposed to be indented. Same elsewhere.
```suggestion
    rw [← drop_drop]
    simp [ih (by omega), tail_scanr (l := l.drop i) (by rw [length_drop]; omega)]
```

File: Mathlib/Data/List/Scan.lean [hunk 5]
```diff
@@ -74,17 +88,69 @@ theorem getElem_succ_scanl {i : ℕ} (h : i + 1 < (scanl f b l).length) :
...
+  cases l <;> simp
+
+@[simp]
+theorem head_scanr : (scanr f b l).head scanr_ne_nil = foldr f b l := by
+  cases l <;> simp
+
+theorem tail_scanr (h : 0 < l.length) : (scanr f b l).tail = scanr f b l.tail := by
+  induction l <;> simp_all
+
+theorem drop_scanr {i : ℕ} (h : i ≤ l.length) : (scanr f b l).drop i = scanr f b (l.drop i) := by
```
Comment (vihdzp) [inline Mathlib/Data/List/Scan.lean:126]: Do we already have `drop_scanl` and `getElem_scanl`? If it makes sense to have them, I think this PR should add them.

File: Mathlib/Data/List/Scan.lean [hunk 6]
```diff
@@ -74,17 +88,69 @@ theorem getElem_succ_scanl {i : ℕ} (h : i + 1 < (scanl f b l).length) :
...
+
+@[simp]
+theorem scanr_cons : scanr f b (a :: l) = foldr f b (a :: l) :: scanr f b l := by
   simp only [scanr, foldr, cons.injEq, and_true]
   induction l generalizing a with
   | nil => rfl
   | cons hd tl ih => simp only [foldr, ih]
 
+@[simp]
+theorem scanr_iff_nil : scanr f b l = [b] ↔ l = [] := by
```
Comment (vihdzp) [inline Mathlib/Data/List/Scan.lean]: Does `aesop` work here?

**Review by vihdzp — COMMENTED** [review]
Do we have any results linking these two definitions through `List.reverse`? If not, can we add them? If so, can we use them to golf some of these theorems?

Great PR! Here's a few small suggestions/comments.

File: Mathlib/Data/List/Scan.lean (hunk 2 above)
Comment (vlad902) [reply Mathlib/Data/List/Scan.lean:34]: Didn't even need to move it below actually.

File: Mathlib/Data/List/Scan.lean (hunk 3 above)
Comment (vlad902) [reply Mathlib/Data/List/Scan.lean]: No, but `constructor <;> cases l <;> simp` does get it in a one-liner.

File: Mathlib/Data/List/Scan.lean (hunk 6 above)
Comment (vlad902) [reply Mathlib/Data/List/Scan.lean]: as above, no, but i can golf it to a one-liner.

File: Mathlib/Data/List/Scan.lean (hunk 5 above)
Comment (vlad902) [reply Mathlib/Data/List/Scan.lean:126]: It has been several months now, but I remember looking at adding them and they are not as natural/easy for scanl.

**Comment by vlad902** [comment]
> Do we have any results linking these two definitions through `List.reverse`? If not, can we add them? If so, can we use them to golf some of these theorems?

We don't have that at the moment. I took a try at proving it but got bogged down. I tried seeing if it would help golf proofs and didn't find anything, so I left it.

File: Mathlib/Data/List/Scan.lean [hunk 7]
```diff
@@ -74,17 +85,71 @@ theorem getElem_succ_scanl {i : ℕ} (h : i + 1 < (scanl f b l).length) :
...
+
+theorem drop_scanr {i : ℕ} (h : i ≤ l.length) : (scanr f b l).drop i = scanr f b (l.drop i) := by
+  induction i with
+  | zero => simp
+  | succ i ih =>
+    rw [← drop_drop]
+    simp [ih (by omega), tail_scanr (l := l.drop i) (by rw [length_drop]; omega)]
+
+theorem getElem_scanr {i : ℕ} (h : i < l.length + 1) :
+    (scanr f b l)[i]'(by simp [h]) = foldr f b (l.drop i) := by
```
Comment (kim-em) [inline Mathlib/Data/List/Scan.lean]: These theorems work better if you don't write `by simp [h]` in the array bound proof, but instead parameterise by an arbitrary proof.

File: Mathlib/Data/List/Scan.lean [hunk 8]
```diff
@@ -74,17 +85,71 @@ theorem getElem_succ_scanl {i : ℕ} (h : i + 1 < (scanl f b l).length) :
...
+  | nil => simp
+  | cons head tail ih =>
+    obtain rfl |  h' := eq_or_ne i 0
+    · simp
+    · rw [length_cons] at h
+      obtain ⟨m, rfl⟩ := Nat.exists_eq_succ_of_ne_zero h'
+      simp [@ih m (by omega)]
+
+theorem getElem?_scanr {i : ℕ} (h : i < l.length + 1) :
+    (scanr f b l)[i]? = some (foldr f b (l.drop i)) := by
```
Comment (kim-em) [inline Mathlib/Data/List/Scan.lean]: Best to have this lemma not have `h`, and the RHS be an if. Then derive this theorem, named `getElem?_scanr_of_lt`.

File: Mathlib/Data/List/Scan.lean [hunk 9]
```diff
@@ -74,17 +85,71 @@ theorem getElem_succ_scanl {i : ℕ} (h : i + 1 < (scanl f b l).length) :
...
+theorem scanr_append (l₁ l₂ : List α) :
+    scanr f b (l₁ ++ l₂) = (scanr f (foldr f b l₂) l₁) ++ (scanr f b l₂).tail := by
+  induction l₁ <;> induction l₂ <;> simp [*]
+
+@[simp]
+theorem getElem_scanr_zero : (scanr f b l)[0] = foldr f b l := by
+  cases l <;> simp
+
+@[simp]
+theorem head_scanr : (scanr f b l).head scanr_ne_nil = foldr f b l := by
```
Comment (kim-em) [inline Mathlib/Data/List/Scan.lean]: Again, best to parametrise by an arbitrary proof, no need to put scanr_ne_nil here.

File: Mathlib/Data/List/Scan.lean [hunk 10]
```diff
@@ -74,17 +85,71 @@ theorem getElem_succ_scanl {i : ℕ} (h : i + 1 < (scanl f b l).length) :
...
+
+@[simp]
+theorem scanr_cons : scanr f b (a :: l) = foldr f b (a :: l) :: scanr f b l := by
   simp only [scanr, foldr, cons.injEq, and_true]
   induction l generalizing a with
   | nil => rfl
   | cons hd tl ih => simp only [foldr, ih]
 
+@[simp]
+theorem scanr_iff_nil : scanr f b l = [b] ↔ l = [] := by
```
Comment (kim-em) [inline Mathlib/Data/List/Scan.lean]: Not important, but could be `scanr f b l = [a] ↔ a = b ∧ l = []`.

File: Mathlib/Data/List/Scan.lean [hunk 11]
```diff
@@ -7,39 +7,50 @@ import Mathlib.Order.Basic
...
+@[simp]
+theorem getElem_scanl_zero : (scanl f b l)[0] = b := by
+  cases l <;> simp
 
 @[simp]
-theorem getElem_scanl_zero {h : 0 < (scanl f b l).length} : (scanl f b l)[0] = b := by
-  cases l
-  · simp
-  · simp
+theorem head_scanl : (scanl f b l).head scanl_ne_nil = b := by
```
Comment (kim-em) [inline Mathlib/Data/List/Scan.lean]: here, too

File: Mathlib/Data/List/Scan.lean [hunk 12]
```diff
@@ -7,39 +7,50 @@ import Mathlib.Order.Basic
...
-theorem scanl_nil (b : β) : scanl f b nil = [b] :=
+theorem scanl_nil (b : β) : scanl f b [] = [b] :=
   rfl
 
+@[simp]
+theorem scanl_ne_nil : scanl f b l ≠ [] := by
+  cases l <;> simp
+
+@[simp]
+theorem scanl_iff_nil : scanl f b l = [b] ↔ l = [] := by
```
Comment (kim-em) [inline Mathlib/Data/List/Scan.lean]: as above

**Comment by kim-em** [comment]
Otherwise, LGTM, thanks. If you're happy making these changes feel free to ping me on the zulip for a merge.

**Comment by kim-em** [comment]
bors merge
